US08871361B2
Synthesis of 2-(3-bromo-5-methylphenyl)-4,4,5,5,-tetramethyl-1,3,2-dioxaborolane
To a sealable vessel was added 1-bromo-3-methylbenzene (20 g, 117 mmol), 4,4′-di-tert-butyl-2,2′-bipyridine (0.314 g, 1.169 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (22.27 g, 88 mmol), [Ir(COD)OMe]2 (0.388 g, 0.585 mmol), and 160 mL THF. The vessel was sealed and heated to 80° C. overnight. The solvent was evaporated and the residue was used as is in the next step. A yield of 26.1 g was estimated.

reactant | 1-bromo-3-methylbenzene | 117 mmol, 20 g | BrC1=CC(=CC=C1)C | C7H7Br
reactant | 4,4′-di-tert-butyl-2,2′-bipyridine | 1.169 mmol, 0.314 g | C(C)(C)(C)C1=CC(=NC=C1)C1=NC=CC(=C1)C(C)(C)C | C18H24N2
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 88 mmol, 22.27 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
solvent | THF | 160 mL | C1CCOC1 | C4H8O
product | 2-(3-bromo-5-methylphenyl)-4,4,5,5,-tetramethyl-1,3,2-dioxaborolane | BrC=1C=C(C=C(C1)C)B1OC(C(O1)(C)C)(C)C | C13H18BBrO2
